US07595320B2
A solution of 0.07 g (116 μmol) of an approximately 70:30 mixture of tert-butyl 5-(N′-methyl-N′-phenylhydrazinocarbonyl)-3-[3-(4-methylpiperazin-1-ylmethyl)-benzoylamino]thieno[2,3-c]pyrazole-1-carboxylate and tert-butyl 5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)-3-[3-(4-methylpiperazin-1-ylmethyl)-benzoylamino]thieno[2,3-c]pyrazole-1-carboxylate in 4 mL of methanol is introduced into a microwave oven tube. The tube is stoppered and the reaction mixture is irradiated at a temperature in the region of 100° C. for 30 minutes. The reaction mixture is then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is purified by preparative LC/MS (conditions B). 70 mg of N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]-3-(4-methylpiperazin-1-ylmethyl)benzamide are thus obtained in the form of a yellow powder melting from 149 to 156° C. LC-MS-DAD-ELSD: 502(−)=(M−H)(−); 504(+)=(M+H)(+).

reactant | tert-butyl 5-(N′-methyl-N′-phenylhydrazinocarbonyl)-3-[3-(4-methylpiperazin-1-ylmethyl)-benzoylamino]thieno[2,3-c]pyrazole-1-carboxylate | CN(NC(=O)C1=CC2=C(N(N=C2NC(C2=CC(=CC=C2)CN2CCN(CC2)C)=O)C(=O)OC(C)(C)C)S1)C1=CC=CC=C1 | C31H37N7O4S
reactant | tert-butyl 5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)-3-[3-(4-methylpiperazin-1-ylmethyl)-benzoylamino]thieno[2,3-c]pyrazole-1-carboxylate | ClC1=CC=C(C=C1)N(NC(=O)C1=CC2=C(N(N=C2NC(C2=CC(=CC=C2)CN2CCN(CC2)C)=O)C(=O)OC(C)(C)C)S1)C | C31H36ClN7O4S
solvent | methanol | 4 mL | CO | CH4O
product | N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]-3-(4-methylpiperazin-1-ylmethyl)benzamide | 70 mg | CN(NC(=O)C1=CC2=C(NN=C2NC(C2=CC(=CC=C2)CN2CCN(CC2)C)=O)S1)C1=CC=CC=C1 | C26H29N7O2S
